US07582760B2
To a solution of 4-(2-amino-3-benzylamino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.176 g, 0.459 mmol) in 1 mL dichloromethane was added 1 mL of 2M aqueous sodium carbonate. Phosgene (0.261 mL of a 1.93 M solution in toleuene, 0.504 mmol) was added dropwise to the stirring solution over five minutes. Stirring was continued for two hours as a fine white precipitate was formed. The solid was filtered and dried under a stream of nitrogen to give 0.112 g of 4-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester as a fine white powder. MS: 409 (M+H)+.

reactant | 4-(2-amino-3-benzylamino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.459 mmol, 0.176 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NCC1=CC=CC=C1)N | C22H30N4O2
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.112 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2N(C(NC21)=O)CC2=CC=CC=C2 | C23H28N4O3
